US04803270
Iron powder (5.6 g) was suspended in 5% acetic acid (112 g), and a solution of 2,4-dinitro-5-fluorophenoxyacetonitrile (2.4 g) in acetic acid (48 g) was dropwise added thereto under reflux, followed by refluxing for an additional 1 hour. The reaction mixture was filtered, and the filtrate was extracted with ethyl acetate. The extract was concentrated, and the precipitated crystals were collected by filtration and washed with a mixture of hexane and ether to give 7-fluoro-6-amino-2H-1,4-benzoxazin-3-(4H)-one (1.3 g; yield, 71.7%).

reactant | 2,4-dinitro-5-fluorophenoxyacetonitrile | 2.4 g | [N+](=O)([O-])C1=C(OCC#N)C=C(C(=C1)[N+](=O)[O-])F | C8H4FN3O5
reactant | acetic acid | 112 g | C(C)(=O)O | C2H4O2
reactant | acetic acid | 48 g | C(C)(=O)O | C2H4O2
catalyst | Iron | 5.6 g | [Fe] | Fe
product | 7-fluoro-6-amino-2H-1,4-benzoxazin-3-(4H)-one | 1.3 g, 71.7% | FC1=CC2=C(NC(CO2)=O)C=C1N | C8H7FN2O2
